US08445530B2
2-{3-[2-(2,5-Difluoro-phenyl)-ethoxy]-4-methoxy-benzoylamino}-indane-2-carboxylic acid methyl ester
300.1 mg (0.88 mmol) of 2-(3-hydroxy-4-methoxy-benzoylamino)-indane-2-carboxylic acid methyl ester, 208.6 mg (1.32 mmol) of 2-(2,5-difluoro-phenyl)-ethanol and 346 mg (1.32 mmol) of triphenylphosphine were dissolved in 10 ml of THF. The mixture was cooled in an ice bath, and 355.5 mg (1.76 mmol) of DIAD were added. After stirring overnight, the mixture was evaporated to dryness and the residue was purified by preparative RP HPLC (water/ACN gradient). 340 mg of the title compound were obtained.

reactant | 2-(3-hydroxy-4-methoxy-benzoylamino)-indane-2-carboxylic acid methyl ester | 0.88 mmol, 300.1 mg | COC(=O)C1(CC2=CC=CC=C2C1)NC(C1=CC(=C(C=C1)OC)O)=O | C19H19NO5
reactant | 2-(2,5-difluoro-phenyl)-ethanol | 1.32 mmol, 208.6 mg | FC1=C(C=C(C=C1)F)CCO | C8H8F2O
reactant | triphenylphosphine | 1.32 mmol, 346 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 1.76 mmol, 355.5 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-{3-[2-(2,5-Difluoro-phenyl)-ethoxy]-4-methoxy-benzoylamino}-indane-2-carboxylic acid methyl ester | 340 mg | COC(=O)C1(CC2=CC=CC=C2C1)NC(C1=CC(=C(C=C1)OC)OCCC1=C(C=CC(=C1)F)F)=O | C27H25F2NO5
